Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Demerol / morphine / Phenergan / promethazine / Reglan / Zofran 
(as hydrochloride) / Atarax / meclizine / adhesive base tape  / 
Tegaderm / gluten / peanuts / FODMAP ( high fodmap foods) / 
Hibiclens / latex / soap / Bactrim / metronidazole
 
Attending: ___.
 
Chief Complaint:
Excess skin on the arms, excess skin on the thighs.

 
Major Surgical or Invasive Procedure:
Brachioplasty and thigh plasty and thigh liposuction and arm 
liposuction.

 
History of Present Illness:
___ year old female with a very complex history including massive 
weight loss and a dysmotility disorder.  She self-catheterizes 
and has excess medial thigh skin post weight loss.  The excess 
thigh tissue makes it difficult for her to self-catheterization. 
 In addition, she has fat left after the weight loss in her 
lateral saddlebag region and anterior thighs along with batwing 
deformity of upper extremities.  She is here today for 
brachioplasty and thigh plasty and thigh liposuction and arm 
liposuction.
 
Past Medical History:
Peripheral/sensory neuropathy w urinary self-cath at  
baseline, pan-GI motility disorder, raynaud's 
. 
PSH: diverting ileostomy (___), Takedown of ileostomy (___),  
End sigmoid colostomy (___), Ex lap, end sigmoid colostomy  
revision (___), Open repair parastomal hernia w  
Permacol mesh (___), Lap-assisted parastomal hernia 
 repair w open revision of ___,  
Panniculectomy and re-siting of 
___, Circumferential body lift 
with re-siting of stoma from a colostomy to an ileostomy ___ 
___, Bilateral short scar periareolar inferior 
pedicle
reduction mastopexy and excision of a 15 cm pannus from the
right superolateral abdominal wall (___), Removal of 
infected Gore-Tex mesh and Left rectus muscle hernia repair 
(___)

 
Social History:
___
Family History:
Mother: Severe chronic constipation
Father: ___
Brother: chronic ___
 
Physical Exam:
Pre-procedure physical exam as documented in anesthesia record 
___:
Airway: Detailed in anesthesia record
Dental: good
Head/neck: Free range of motion
Lungs: clear to auscultation

 
Pertinent Results:
___ 01:30PM BLOOD WBC-11.4*# RBC-3.75* Hgb-9.5* Hct-31.3* 
MCV-84# MCH-25.3*# MCHC-30.4* RDW-16.4* RDWSD-49.7* Plt ___
___ 08:21AM BLOOD WBC-5.9 RBC-2.76*# Hgb-7.0*# Hct-22.4*# 
MCV-81* MCH-25.4* MCHC-31.3* RDW-16.3* RDWSD-47.8* Plt ___
___ 03:50PM BLOOD WBC-6.2 RBC-2.62* Hgb-6.6* Hct-21.3* 
MCV-81* MCH-25.2* MCHC-31.0* RDW-16.2* RDWSD-48.0* Plt ___
___ 07:38AM BLOOD WBC-4.9 RBC-2.99* Hgb-7.9* Hct-24.4* 
MCV-82 MCH-26.4 MCHC-32.4 RDW-15.8* RDWSD-46.5* Plt ___
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a Bilateral brachioplasty, bilateral 
thighplasty and liposuction of bilateral upper and lower 
extremities.  The patient tolerated the procedures well. 
 .
 Neuro: Post-operatively, the patient received IV dilaudid with 
good effect and adequate pain control. When tolerating oral 
intake, the patient was transitioned to oral pain medications. 
 .
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 GI/GU: Post-operatively, the patient was given IV fluids. Her 
diet was advanced when appropriate, but patient complained of 
post operative nausea poorly controlled with the few 
anti-emetics she tolerates. She was also started back on her 
bowel regimen of large doses of milk of magnesium in addition to 
large doses of Miralax to encourage bowel movement. Foley was 
removed on POD#1 but then reinserted later in the day due to 
inability to self catheterize adequately. Patient was discharged 
home with foley in place for the short term recovery period.  
Intake and output were closely monitored. 
 .
 ID: Post-operatively, the patient was given IV cefazolin. The 
patient's temperature was closely watched for signs of 
infection. 
 .
 Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 
 .
 At the time of discharge on POD#3, the patient was doing well, 
afebrile with stable vital signs, tolerating small amounts of 
liquids and regular diet, ambulating, foley in place, and pain 
was adequtely controlled.  Patient had bilateral upper extremity 
compression stockings in place and a girdle compression garment 
to thighs.
 
Medications on Admission:
Furosemide 50 mg Daily (5 mL) Liquid
Gabapentin 900 mg TID (liquid)
Hydrocortisone 10 mg po QAM
Hydrocortisone 20 mg po QPM
Oxycodone 10 mg every 3 hours PRN (liquid 10 mL)
Protonix 40 mg po BID
Miralax 1 cap in tea powder(s) by mouth 16x day since childhood 
Milk of magnesia
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Furosemide 50 mg PO DAILY  
3.  Gabapentin 900 mg PO TID  
4.  Hydrocortisone 10 mg PO QAM  
5.  Hydrocortisone 20 mg PO QPM  
6.  LORazepam 1 mg PO Q4H:PRN anxiety, nausea  
7.  Milk of Magnesia 60 mL PO Q6H:PRN constipation  
8.  Ondansetron 2mg mg PO Q8H:PRN nausea  
9.  OxycoDONE Liquid 10 mg PO Q3H:PRN Pain - Moderate  
10.  Pantoprazole 40 mg PO Q12H  
11.  Polyethylene Glycol 17 g PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
S/p bilateral brachioplasty and bilateral thighplasty with 
liposuction

 
Discharge Condition:
Stable, baseline mental status, wounds and dressings CDI without 
pain, swelling, or erythema. Ambulatory without assist.  Foley 
catheter in place.

 
Discharge Instructions:
You were admitted for bilateral brachioplasty and bilateral 
thighplasty with liposuction.
.
Your upper extremity dressings will be converted to sleeves at 
your follow-up appointment on the day of discharge. Your lower 
extremity garment will stay in place until your clinic follow-up 
on the day of discharge. You may also wear 'spanx' compression 
garments as discussed with Dr. ___. 
.
Diet/Activity:  
1. You may resume your regular diet.  
2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by Dr. ___.
.
Medications: 
 1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
 2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. 
 3. Take prescription pain medications for pain not relieved by 
tylenol.  
 4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
 5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber. 
 6. do not take any medicines such as Motrin, Aspirin, Advil or 
Ibuprofen etc
 . 
 Call the office IMMEDIATELY if you have any of the following: 
 1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
 2. A large amount of bleeding from the incision(s) or drain(s). 

 3. Fever greater than 101.5 oF 
 4. Severe pain NOT relieved by your medication. 
 . 
 Return to the ER if: 
 * If you are vomiting and cannot keep in fluids or your 
medications. 
 * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
 * Any serious change in your symptoms, or any new symptoms that 
concern you. 
 
Followup Instructions:
___